US04800228
4,7-diacetoxy-2-(4-methoxybenzyl)-3,5,6-trimethylbenzofuran
A solution of 2-(4-methoxybenzyl)-3,5,6-trimethyl-4,7-benzofurandione (from Preparation 3) (0.5 g) in EtOAc (50 mL) was stirred vigorously with a saturated aqueous solution of Na2S2O4 (50 mL) at 25° C. for 16 h. The organic layer was separated, dried (MgSO4) and the solvent evaporated to give a white solid. The solid was dissolved in pyridine (10 mL) containing at catalytic amount of 4-(dimethylamino)pyridine and 3 equivalents of Ac2O were added.

reactant | 2-(4-methoxybenzyl)-3,5,6-trimethyl-4,7-benzofurandione | 0.5 g | COC1=CC=C(CC=2OC3=C(C2C)C(C(=C(C3=O)C)C)=O)C=C1 | C19H18O4
reactant | Na2S2O4 | 50 mL | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | Ac2O | 3 equivalents | CC(=O)OC(=O)C | C4H6O3
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4,7-diacetoxy-2-(4-methoxybenzyl)-3,5,6-trimethylbenzofuran | C(C)(=O)OC1=C(C(=C(C2=C1C(=C(O2)CC2=CC=C(C=C2)OC)C)OC(C)=O)C)C | C23H24O6
